US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(7-(3-methyl-3H-imidazol-4-yl)quinazolin-4-yl)- amine
Prepared according to Procedure B from (1-benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-yl)amine hydrochloride and (3-methyl-3H-imidazol-4-yl) tri-n-butylstannane; δH [2H6] DMSO 11.85(1H,bs), 9.25(1H,s), 9.19(1H,s), 9.02(1H,d), 8.93(1H,s), 8.16(2H,d), 8.06(2H,d), 7.78(1H,d), 7.61(1H,dd), 7.22(5H,m), 5.66(2H,s) 3.92 (3H,s); m/z (M+1+) 432.

reactant | (1-benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-yl)amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)I
reactant | (3-methyl-3H-imidazol-4-yl) tri-n-butylstannane | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC
product | (1-Benzyl-1H-indazol-5-yl)-(7-(3-methyl-3H-imidazol-4-yl)quinazolin-4-yl)- amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1N(C=NC1)C | C26H21N7
